US08383621B2
Step 1: 2-[4-(4-(4-Ethyl-5-fluoro-2-methoxyphenoxy)-3-fluorobenzoyl]-2-oxopiperazin-1-yl)acetamide
Sodium hydride (60% in oil, 49 mg, 1.2 mmol) was added to a solution of 4-[4-(4-ethyl-5-fluoro-2-methoxyphenoxy)-3-fluorobenzoy]-piperazin-2-one (which may be prepared in accordance with the experimental described in Example 5, step 1; 400 mg, 1 mmol) in tetrahydrofuran (10 mL). The reaction mixture was stirred at room temperature for 15 minutes prior to the addition of 2-bromoacetamide (212 mg, 1.5 mmol). After stirring for 2 days at room temperature, the reaction mixture was diluted by addition of ethyl acetate (20 mL) and water (20 mL). After separation, the aqueous layer was extracted with ethyl acetate (2×20 mL). The combined organic phases were washed with a saturated solution of sodium chloride (2×20 mL), dried over sodium sulfate, filtered and concentrated under vacuum. The residue was purified by chromatography on silica gel, using dichloromethane/methanol (98:2 to 95:5) as eluent. The title product was obtained as a white solid (300 mg, 65%).

reactant | Sodium hydride | 1.2 mmol, 49 mg | [H-].[Na+]
reactant | 4-[4-(4-ethyl-5-fluoro-2-methoxyphenoxy)-3-fluorobenzoy]-piperazin-2-one | C(C)C1=CC(=C(OC2=C(C=C(C(=O)N3CC(NCC3)=O)C=C2)F)C=C1F)OC | C20H20F2N2O4
reactant | 2-bromoacetamide | 1.5 mmol, 212 mg | BrCC(=O)N | C2H4BrNO
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 2-[4-(4-(4-Ethyl-5-fluoro-2-methoxyphenoxy)-3-fluorobenzoyl]-2-oxopiperazin-1-yl)acetamide | C(C)C1=CC(=C(OC2=C(C=C(C(=O)N3CC(N(CC3)CC(=O)N)=O)C=C2)F)C=C1F)OC | C22H23F2N3O5
